### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Functor): pointwise left Kan extensions

### PR DESCRIPTION
**Pull request by joelriou**
In this PR, we introduce pointwise left Kan extensions: a criteria `IsPointwiseLeftKanExtension`, a typeclass `HasPointwiseLeftKanExtension` (which asserts the existence of certain colimits) and a construction of a pointwise left Kan extension when `HasPointwiseLeftKanExtension` holds. We also show that pointwise left Kan extensions are left Kan extensions.

---
- [x] depends on: #10384

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Functor/KanExtension/Pointwise.lean [hunk 1]
```diff
@@ -0,0 +1,191 @@
...
+
+variable (h : E.IsPointwiseLeftKanExtension)
+
+lemma IsPointwiseLeftKanExtension.hasPointwiseLeftKanExtension :
+    HasPointwiseLeftKanExtension L F :=
+  fun Y => (h Y).hasPointwiseLeftKanExtensionAt
+
+/-- A pointwise left Kan extension is universal, i.e. it is a left Kan extension. -/
+def IsPointwiseLeftKanExtension.isUniversal : E.IsUniversal :=
+  IsInitial.ofUniqueHom (fun G => StructuredArrow.homMk
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/Functor/KanExtension/Pointwise.lean:92]: Just a suggestion, feel free to ignore: you could consider factoring out the definition of the arrow and also of the cocone below in `pointwiseLeftKanExtension` in order to reduce nesting a bit.

File: Mathlib/CategoryTheory/Functor/KanExtension/Pointwise.lean [hunk 2]
```diff
@@ -0,0 +1,191 @@
...
+/-- The functor `pointwiseLeftKanExtension L F` is a pointwise left Kan
+extension of `F` along `L`. -/
+noncomputable def pointwiseLeftKanExtensionIsPointwiseLeftKanExtension :
+    (LeftExtension.mk _ (pointwiseLeftKanExtensionUnit L F)).IsPointwiseLeftKanExtension :=
+  fun X => IsColimit.ofIsoColimit (colimit.isColimit _) (Cocones.ext (Iso.refl _) (fun j => by
+    dsimp
+    simp only [comp_id, colimit.ι_desc, CostructuredArrow.map_mk]
+    congr 1
+    rw [id_comp]
+    rfl))
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/Functor/KanExtension/Pointwise.lean:173]: `rfl` after `rw` to finish off a proof is generally a code smell as it indicates that there may be missing API, but it's not necessary here.
```suggestion
    rw [id_comp, ← CostructuredArrow.eq_mk]
```

File: Mathlib/CategoryTheory/Functor/KanExtension/Pointwise.lean [hunk 3]
```diff
@@ -0,0 +1,191 @@
...
+    congr 1
+    apply CostructuredArrow.map_comp)
+
+/-- The unit of the constructed pointwise left Kan extension when
+`HasPointwiseLeftKanExtension L F` holds. -/
+@[simps]
+noncomputable def pointwiseLeftKanExtensionUnit : F ⟶ L ⋙ pointwiseLeftKanExtension L F where
+  app X := colimit.ι (CostructuredArrow.proj L (L.obj X) ⋙ F)
+    (CostructuredArrow.mk (𝟙 (L.obj X)))
+  naturality {X₁ X₂} f:= by
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/Functor/KanExtension/Pointwise.lean:156]:
```suggestion
  naturality {X₁ X₂} f := by
```

File: Mathlib/CategoryTheory/Functor/KanExtension/Pointwise.lean [hunk 4]
```diff
@@ -0,0 +1,191 @@
...
+        { app := fun g => colimit.ι (CostructuredArrow.proj L Y₂ ⋙ F)
+            ((CostructuredArrow.map f).obj g)
+          naturality := fun g₁ g₂ φ => by
+            simpa using colimit.w (CostructuredArrow.proj L Y₂ ⋙ F)
+              ((CostructuredArrow.map f).map φ) })
+  map_id Y := colimit.hom_ext (fun j => by
+    dsimp
+    simp only [colimit.ι_desc, comp_id]
+    congr
+    apply CostructuredArrow.map_id)
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/Functor/KanExtension/Pointwise.lean:143]: I don't love that all of these proofs need to argue using equality of objects, but I don't see an easy way to avoid this.

File: Mathlib/CategoryTheory/Functor/KanExtension/Pointwise.lean [hunk 5]
```diff
@@ -0,0 +1,191 @@
...
+@[simps]
+def coconeAt (Y : D) : Cocone (CostructuredArrow.proj L Y ⋙ F) where
+  pt := E.right.obj Y
+  ι :=
+    { app := fun g => E.hom.app g.left ≫ E.right.map g.hom
+      naturality := fun g₁ g₂ φ => by
+        dsimp
+        rw [← CostructuredArrow.w φ]
+        simp only [assoc, NatTrans.naturality_assoc, Functor.comp_map,
+          Functor.map_comp, comp_id] }
```
[the remark this answers is not in the document]
Comment (joelriou) [reply Mathlib/CategoryTheory/Functor/KanExtension/Pointwise.lean:66]: Thanks for the review. Here, I would rather keep the more direct definition become the `ι_app` simp lemma would no longer be `rfl`.

File: Mathlib/CategoryTheory/Functor/KanExtension/Pointwise.lean (hunk 4 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Functor/KanExtension/Pointwise.lean:143]: Yes, I was feeling the same, but I do not see a nice way to create the suitable goals for using the naturality with respect to an iso rather than `congr` followed by an equality.

File: Mathlib/CategoryTheory/Functor/KanExtension/Pointwise.lean (hunk 1 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Functor/KanExtension/Pointwise.lean]: Thanks for the suggestion! I have introduced auxiliary definitions here, but not for `pointwiseLeftKanExtension`.

**Review by TwoFX — APPROVED** [review]
Thanks!

bors r+
